US06413417B1
Ammonia nitrogen and nitrite nitrogen are oxidized by air and microorganisms to form nitrate nitrogen; and

reactant | Ammonia nitrogen | [N].N
reactant | nitrite nitrogen | [N+3].N(=O)[O-].N(=O)[O-].N(=O)[O-]
product | nitrate nitrogen | [N+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-] | InChI=1S/3NO3.N/c3*2-1(3)4;/q3*-1;+3
